US04642313
16.0 g of (2-furylcarbonyl)methylamine hydrochloride, 20.5 g of sodium bicarbonate and 11.4 g of isobutyryl chloride are treated in the same manner as described in Preparation 1-(1). 13.0 g of N-isobutyryl-(2-furylcarbonyl)methylamine are thereby obtained. Yield: 67.0%

reactant | (2-furylcarbonyl)methylamine hydrochloride | 16.0 g | Cl.O1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 20.5 g | C([O-])(O)=O.[Na+]
reactant | isobutyryl chloride | 11.4 g | C(C(C)C)(=O)Cl | C4H7ClO
product | N-isobutyryl-(2-furylcarbonyl)methylamine | 13.0 g, Yield: 67.0% | C(C(C)C)(=O)NCC(=O)C=1OC=CC1 | C10H13NO3
